US05824802
18. Preparation of 1-Ethyl-4-(2-chloro-3-(morpholin-2-on-4-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole
A solution of 0.50 g (1.3 mmol) of 1-ethyl-4-(2-chloro-3-(2-hydroxyethylamino)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole in 20 mL of toluene was heated to 90° C. and treated with 2 mL of 40 percent aqueous glyoxal solution with stirring. The progress of the reaction was monitored by HPLC analysis and additional aliquots of 40 percent aqueous glyoxal solution were added every few hours until the starting material was consumed. After 24 hours, the reaction was complete and the dark solution was decanted from a gummy residue. The residue was extracted with several portions of hot toluene and the organic solutions were combined. The volatiles were removed by evaporation under reduced pressure and the resulting residue was purified by adding a small amount of diethyl ether and collecting the solids present by filtration. More solids were obtained when the diethyl ether solution was concentrated by evaporation. These solids were collected by filtration as well. The solids were combined to obtain 0.39 g (71 percent of theory) of the title compound as a tan powder melting at 198°-202° C.

reactant | 1-ethyl-4-(2-chloro-3-(2-hydroxyethylamino)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | 1.3 mmol, 0.50 g | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)NCCO)Cl)=O | C15H18ClN3O5S
reactant | glyoxal | 2 mL | C(=O)C=O | C2H2O2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-Ethyl-4-(2-chloro-3-(morpholin-2-on-4-yl)-4-methylsulfonylbenzoyl)-5-hydroxypyrazole | C(C)N1N=CC(=C1O)C(C1=C(C(=C(C=C1)S(=O)(=O)C)N1CC(OCC1)=O)Cl)=O | C17H18ClN3O6S
